US06458796B1
5-Benzyl-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example 1, the title compound is prepared from 566 mg (2 mmol) of 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide and 1.16 g (7.7 mmol) of methyl phenylacetate.

reactant | 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide | 2 mmol, 566 mg | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C)C(=O)N | C14H19N5O
reactant | methyl phenylacetate | 7.7 mmol, 1.16 g | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
product | 5-Benzyl-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | C(C1=CC=CC=C1)C=1NC(C2=C(N1)N(N=N2)C(CCCC2=CC=CC=C2)C)=O | C22H23N5O
